US05877174
A mixture of 10.0 g of benzyl [4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazin- 1-yl]acetate, 40 ml of trifluoroacetic acid and 20 ml of anisole was refluxed for 2 hours. After completion of the reaction, the solvent was distilled off under reduced pressure and 20 ml of ethyl acetate and 10 ml of diethyl ether were added to the resulting residue, and the solid was collected by filtration. The solid obtained was dissolved in a mixed solvent of 9 ml of ethyl acetate and 1 ml of methanol, followed by adding thereto 25 ml of a 1M solution of diphenyldiazomethane in ethyl acetate, and the resulting mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent; chloroform: methanol=10:1) to obtain 6.8 g of diphenylmethyl (2,3-dioxopiperazin-1-yl)acetate as a white foamy substance.

reactant | benzyl [4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazin- 1-yl]acetate | 10.0 g | COC1=C(CN2C(C(N(CC2)CC(=O)OCC2=CC=CC=C2)=O)=O)C=CC(=C1)OC | C22H24N2O6
reactant | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 20 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | ethyl acetate | 9 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 ml | CO | CH4O
product | diphenylmethyl (2,3-dioxopiperazin-1-yl)acetate | 6.8 g | O=C1N(CCNC1=O)CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C19H18N2O4
